US04640913
2-Methoxy-3-(4-tetradecylphenoxy)-1-propanol
A mixture of about 527 mg of 1-[2-methoxy-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene, about 10 mg of p-toluenesulfonic acid and about 5 ml of methanol:tetrahydrofuran (about 1:1) was stirred under argon for about 16 hours and the solvents removed under reduced pressure. The residue was dissolved in ether:hexane (about 1:1), washed with aqueous sodium bicarbonate, brine, dried and evaporated, giving about 171 mg of the desired title compound, mp 43°-45° C.

reactant | 1-[2-methoxy-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene | about 527 mg | COC(COC1=CC=C(C=C1)CCCCCCCCCCCCCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H56O3
reactant | p-toluenesulfonic acid | about 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | about 5 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methoxy-3-(4-tetradecylphenoxy)-1-propanol | about 171 mg | COC(CO)COC1=CC=C(C=C1)CCCCCCCCCCCCCC | C24H42O3
